US04092150
To a stirred solution of 4.3 grams of 4,6-dichloro-2-isopropylamino-5-pyrimidinecarbonitrile in 125 ml of diethyl ether was added dropwise 2.6 grams of diethylamine. Upon complete addition, the reaction mixture was stirred at room temperature for 1.5 hours. The reaction mixture was washed with water. The diethyl ether layer was separated and dried over magnesium sufate. The mixture was filtered, and the filtrate was evaporated under reduced pressure to a residue. The residue was recrystallized from methylcyclohexane to give 2.5 grams of 4-chloro-6-diethylamino-2-isopropylamino-5-pyrimidinecarbonitrile; mp, 74°-76°.

reactant | 4,6-dichloro-2-isopropylamino-5-pyrimidinecarbonitrile | 4.3 grams | ClC1=NC(=NC(=C1C#N)Cl)NC(C)C | C8H8Cl2N4
reactant | diethylamine | 2.6 grams | C(C)NCC | C4H11N
solvent | diethyl ether | 125 ml | C(C)OCC | C4H10O
product | 4-chloro-6-diethylamino-2-isopropylamino-5-pyrimidinecarbonitrile | 2.5 grams | ClC1=NC(=NC(=C1C#N)N(CC)CC)NC(C)C | C12H18ClN5
